US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 1-benzyl-3-(3-chloropropyl)-5-propyl-2,4(1H,3H)-pyrimidinedione gave 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-propyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 178° C.; Anal.: Calcd. for C29H35F3N4O3.HCl: C, 59.03; H, 6.32; N, 9.49%; Found: C, 59.08; H, 6.26; N, 9.52%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 1-benzyl-3-(3-chloropropyl)-5-propyl-2,4(1H,3H)-pyrimidinedione | C(C1=CC=CC=C1)N1C(N(C(C(=C1)CCC)=O)CCCCl)=O | C17H21ClN2O2
product | 1-benzyl-3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-propyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C(C(=C1)CCC)=O)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC(F)(F)F)=O | InChI=1S/C29H35F3N4O3.ClH/c1-2-9-24-21-35(20-23-10-4-3-5-11-23)28(38)36(27(24)37)15-8-14-33-16-18-34(19-17-33)25-12-6-7-13-26(25)39-22-29(30,31)32;/h3-7,10-13,21H,2,8-9,14-20,22H2,1H3;1H
